US04728652
A suspension of 1,2,3,4-tetrahydro-6-methyl-4-(3-nitrophenyl)-2-thioxo-5-pyrimidinecarboxylic acid, ethyl ester (1.0 g., 3.1 mmole) in dry acetone (10 ml.) is treated with finely ground potassium carbonate (1.0 g.) and methyl iodide (220 μl., 3.5 mmole). The reaction flask is tightly stoppered and the suspension is allowed to stir at room temperature overnight. It is then diluted with ethyl acetate and the white solid is filtered off. The filtrate is washed with water and brine. After drying over anhydrous magnesium sulfate, the solvent is stripped off to give a light yellow foam. Crystallization from etherhexane provides 820 mg. of off-white crystalline product. This material is combined with that from another run (200 mg.) and triturated with hexane to give an analytically pure sample of 1,4-dihydro-6-methyl-2-(methylthio)-4-(3-nitrophenyl)-5-pyrimidinecarboxylic acid, ethyl ester; m.p. 91.5°-93°. TLC (silica gel; ethyl acetate: hexane, 40:60) Rf =0.36.

reactant | 1,2,3,4-tetrahydro-6-methyl-4-(3-nitrophenyl)-2-thioxo-5-pyrimidinecarboxylic acid, ethyl ester | 3.1 mmole, 1.0 g | CC1=C(C(NC(N1)=S)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC | C14H15N3O4S
reactant | potassium carbonate | 1.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 3.5 mmole, 220 μl | CI | CH3I
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,4-dihydro-6-methyl-2-(methylthio)-4-(3-nitrophenyl)-5-pyrimidinecarboxylic acid, ethyl ester | CC1=C(C(N=C(N1)SC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC | C15H17N3O4S
